US04150032
9b-Allyl-8-methoxy-3-methyl-5,9b-dihydrobenz[e]indoline
The benz[e]indoline IIa regenerated from the picrate XIVd (X=picric acid) as follows: A mixture of finely powder picrate (10 mmol), 1 N aqueous lithium hydroxide (50 ml), ethanol (20 ml) and ether (100 ml) in a separatory funnel was shaken until all the picrate had dissolved. The ether phase was washed with water and, after drying, was evaporated to dryness to give the free base IIa quantitatively.

reactant | benz[e]indoline | C1CNC=2C=CC3=C(C12)C=CC=C3 | C12H11N
reactant | picrate | C1([N+](=O)[O-])=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1[O-]
reactant | picric acid | C1([N+](=O)[O-])=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1O | C6H3N3O7
reactant | picrate | 10 mmol | C1([N+](=O)[O-])=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1[O-]
reactant | lithium hydroxide | 1 N, 50 ml | [OH-].[Li+]
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 9b-Allyl-8-methoxy-3-methyl-5,9b-dihydrobenz[e]indoline | C(C=C)C12CCN(C2=CCC2=C1C=C(C=C2)OC)C | C17H21NO
